US06156700
Preparation of 1-Methyl-3-{3-[(methylthio)methyl]-1,2-benzisothiazol-5-yl}-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A solution of 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (1.66 g, 3.95 mmol) in acetonitrile is treated with sodium thiomethoxide (0.332 g, 4.74 mmol), stirred overnight at room temperature, treated with additional sodium thiomethoxide (about 15 mg), stirred for one hour, and concentrated in vacuo to obtain a residue. The residue is diluted with methylene chloride and water. The organic phase is separated, washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. Column chromatography of the solid using silica gel and a 2% diethyl ether in methylene chloride solution gives the title product as a white solid which is identified by 1H NMR spectral analysis.

reactant | 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 3.95 mmol, 1.66 g | BrCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9BrF3N3O2S
reactant | sodium thiomethoxide | 4.74 mmol, 0.332 g | C[S-].[Na+]
reactant | sodium thiomethoxide | about 15 mg | C[S-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-Methyl-3-{3-[(methylthio)methyl]-1,2-benzisothiazol-5-yl}-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CSC)C1)=O | C15H12F3N3O2S2
